US07399780B2
2-Chloro-5-(pyrrolidin-1-ylmethyl)pyridine 1-oxide
To a solution of 2-chloro-5-(chloromethyl)pyridine 1-oxide (477 mg, 2.68 mmol; described in: Tilley, J. W. et al, J. Heterocyclic Chem. 1979, 16, 333) in acetonitrile (10 mL) was added pyrrolidine (381 mg, 5.36 mmol), and the reaction mixture was stirred at room temperature overnight. The solvent was evaporated, and the residue was dissolved in 2 M HCl(aq) and washed with ethyl acetate. The aqueous layer was alkalized to pH 8 with NaHCO3 (s), and the mixture was extracted four times with ethyl acetate. The combined organic layers were dried (Na2SO4), and the solvent was evaporated to give 0.43 g (75% yield) of the title compound as a red oil: 1H NMR (CDCl3, 400 MHz) δ 8.37 (d, J=1 Hz, 1 H), 7.44 (d, J=8 Hz, 1 H), 7.23 (dd, J=8, 2 Hz, 1 H), 3.57 (s, 2 H), 2.51 (m, 4 H), 1.80 (m, 4 H); 13C NMR (CDCl3, 100 MHz) δ 140.1, 139.9, 137.2, 126.4, 126.4, 56.4, 54.0, 23.5; MS (ES) m/z 213 (M++1).

reactant | 2-chloro-5-(chloromethyl)pyridine 1-oxide | 2.68 mmol, 477 mg | ClC1=[N+](C=C(C=C1)CCl)[O-] | C6H5Cl2NO
reactant | pyrrolidine | 5.36 mmol, 381 mg | N1CCCC1 | C4H9N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-Chloro-5-(pyrrolidin-1-ylmethyl)pyridine 1-oxide | 0.43 g, 75% yield | ClC1=[N+](C=C(C=C1)CN1CCCC1)[O-] | C10H13ClN2O
